US05863947
A solution of 5-[4-cyano-2-(2-phenylethynyl)phenyl]hydantoin (100 mg, 0.33 mmol) in methanol (20 ml) was shaken with 10% palladium-carbon (10 mg) under an atmosphere of hydrogen for 24 hours at 60 p.s.i. The catalyst was removed by filtration to give 5-[4-cyano-2-(2-phenylethyl)phenyl]hydantoin as a colourless oil.

reactant | 5-[4-cyano-2-(2-phenylethynyl)phenyl]hydantoin | 0.33 mmol, 100 mg | C(#N)C1=CC(=C(C=C1)C1C(NC(N1)=O)=O)C#CC1=CC=CC=C1 | C18H11N3O2
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium-carbon | 10 mg | [C].[Pd]
product | 5-[4-cyano-2-(2-phenylethyl)phenyl]hydantoin | C(#N)C1=CC(=C(C=C1)C1C(NC(N1)=O)=O)CCC1=CC=CC=C1 | C18H15N3O2
